US06187774B1
By the same reaction and treatment as in Example 48 using tetrahydro-4H-thiopyran-4-one oxime and ethyl 4-(4-(4-chlorophenyl)piperazin-1-yl)-n-butyrate, 3-(3-(4-(4chlorophenyl)piperazin-1-yl)propyl)-6,7-dihydro-4H-thiopyrano[4,3-c]isoxazole is obtained.

reactant | tetrahydro-4H-thiopyran-4-one oxime | S1CCC(CC1)=NO | C5H9NOS
reactant | ethyl 4-(4-(4-chlorophenyl)piperazin-1-yl)-n-butyrate | ClC1=CC=C(C=C1)N1CCN(CC1)CCCC(=O)OCC | C16H23ClN2O2
product | 3-(3-(4-(4chlorophenyl)piperazin-1-yl)propyl)-6,7-dihydro-4H-thiopyrano[4,3-c]isoxazole | ClC1=CC=C(C=C1)N1CCN(CC1)CCCC1=C2C(=NO1)CCSC2 | C19H24ClN3OS
